US06114532
b. 4-(3-Bromo-benzofuran-2-yl)methyl-benzonitrile
To a solution of 1.2 g (5 mmol) of 4-(benzofuran-2-yl)methyl-benzonitrile in 25 ml methylene chloride, a solution of 0.8 g (5 mmol) of bromine in 5 ml carbon tetrachloride is added dropwise at 2° C. The solution is stirred for 90 minutes at 2° C., the precipitate formed is suction filtered, washed with a little methylene chloride and dried.

reactant | 4-(benzofuran-2-yl)methyl-benzonitrile | 5 mmol, 1.2 g | O1C(=CC2=C1C=CC=C2)CC2=CC=C(C#N)C=C2 | C16H11NO
reactant | bromine | 5 mmol, 0.8 g | BrBr | Br2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(3-Bromo-benzofuran-2-yl)methyl-benzonitrile | BrC1=C(OC2=C1C=CC=C2)CC2=CC=C(C#N)C=C2 | C16H10BrNO
